US06465693B2
Synthesis of N-(4-Chlorophenyl)-N-phenylhydrazine
Phenylhydrazine (1.2 equiv., 0.6 mmol, 0.06 mL), 4-chlorobromobenzene (1.0 equiv., 0.5 mmol, 96 mg), Pd(OAc)2 (0.05 equiv., 0.025 mmol, 6 mg), BINAP (0.05 equiv., 0.025 mmol, 16 mg), NaOtBu (1.4 equiv., 0.7 mmol, 67 mug) and dilsopropylamine (2 mL) were added to an oven dried test tube which was capped with a septum and purged briefly with argon (˜1 min.), and then heated to 80° C. under argon for 2.5 hours. The reaction was then cooled to room temperature, diluted with Et2O (2 mL), filtered through Celite and concentrated under vacuum. The crude mixture was purified by flash column chromatography (10% EtOAc/Hex) to give the title product as a yellow oil (42 mg, 0.19 mmol, 39% yield).

reactant | Phenylhydrazine | 0.6 mmol, 0.06 mL, 1.2 equiv. | C1(=CC=CC=C1)NN | C6H8N2
reactant | 4-chlorobromobenzene | 0.5 mmol, 96 mg, 1.0 equiv. | ClC1=CC=C(C=C1)Br | C6H4BrCl
reactant | BINAP | 0.025 mmol, 16 mg, 0.05 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 0.7 mmol, 1.4 equiv. | CC(C)(C)[O-].[Na+]
catalyst | Pd(OAc)2 | 0.025 mmol, 6 mg, 0.05 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-(4-Chlorophenyl)-N-phenylhydrazine | 0.19 mmol, 42 mg, 39% yield | ClC1=CC=C(C=C1)N(N)C1=CC=CC=C1 | C12H11ClN2
